US06359134B1
4-(6-Chloronaphthalene-2-sulfonyl)-1-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine-2-carboxylic acid
To a solution of ethyl 4-(6-chloronaphthalene-2-sulfonyl)-1-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]-piperazine-2-carboxylate (100 mg) in methanol (20 ml) was added 1 N sodium hydroxide aqueous solution (5 ml), and the mixture was stirred at room temperature for 1 hour. The reaction solution was concentrated, and 1 N hydrochloric acid aqueous solution (5 ml) was added to the residue. The precipitate was filtered and dried to give a colorless solid of the title compound (17 mg).

reactant | ethyl 4-(6-chloronaphthalene-2-sulfonyl)-1-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]-piperazine-2-carboxylate | 100 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C1=C(N=C(S1)C1=CC=NC=C1)C)C(=O)OCC | C27H25ClN4O5S2
reactant | sodium hydroxide | 1 N, 5 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 4-(6-Chloronaphthalene-2-sulfonyl)-1-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine-2-carboxylic acid | 17 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C1=C(N=C(S1)C1=CC=NC=C1)C)C(=O)O | C25H21ClN4O5S2
